global 0
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice\deps\JART-memristor-models\JART_VCM_v1b.va"
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice\deps\transistor-models\45nm_bulk.pm"
simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=7000n errpreset=conservative maxstep =10n
saveOptions options save=all currents=all saveahdlvars=all
parameters Read_V = 0.2 Set_V = -1.05 Reset_V = 0.75 Vgate = 0.8
parameters T0 = 0.293 eps = 17 epsphib = 5.5 phiBn0 = 0.18 phin = 0.1 \
		un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = 0.008 Nplug = 20 \
		a = 2.5e-10 ny0 = 20000000000000.0 dWa = 1.35 Rth0 = 10000000.0 rdet = 4.5e-08 \
		lcell = 3 ldet = 0.4 Rtheff_scaling = 0.27 RseriesTiOx = 650 R0 = 719.244 \
		Rthline = 90471.5 alphaline = 0.00392 


subckt 1T1M_ckt MemInput Source TransGate Bulk
	M0 (net01 MemInput) JART_VCM_1b_det	T0 = T0 eps = eps epsphib = epsphib phiBn0 = phiBn0 phin = phin \
		un = un Ndiscmax = Ndiscmax Ndiscmin = Ndiscmin Ninit = Ninit Nplug = Nplug \
		a = a ny0 = ny0 dWa = dWa Rth0 = Rth0 rdet = rdet \
		lcell = lcell ldet = ldet Rtheff_scaling = Rtheff_scaling RseriesTiOx = RseriesTiOx R0 = R0 \
		Rthline = Rthline alphaline = alphaline 
	T0 (net01 TransGate Source Bulk) nmos
ends 1T1M_ckt


I0 (r0 c0 g0 0) 1T1M_ckt
I1 (r0 c1 g0 0) 1T1M_ckt


V0 (r0 0) vsource type=pwl wave=[\
0n	0	\
999n	0	\
1000n	Set_V	\
1999n	Set_V	\
2000n	0	\
2999n	0	\
3000n	Read_V	\
3999n	Read_V	\
4000n	0	\
4999n	0	\
]
V0c(c0 0) vsource dc=Vgate

*we want to access the second memristor  (r0,c1)
V1 (r0 0) vsource type=pwl wave=[\
0n	0	\
999n	0	\
1000n	Read_V	\
1999n	Read_V	\
2000n	0	\
2999n	0	\
3000n	Set_V	\
3999n	Set_V	\
4000n	0	\
4999n	0	\
5000n	Read_V	\
5999n	Read_V	\
6000n	0	\
6999n	0	\
7000n	Reset_V	\
7999n	Reset_V	\
8000n	0	\
8999n	0	\
9000n	Read_V	\
9999n	Read_V	\
10000n	0	\
10999n	0	\
]

V1g(go 0) vsource dc=Vgate

V1c(c0 0) vsource dc=0




